US07423030B2
37.1. 7-Fluoro-4-(4-fluorophenyl)-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting 5-fluoro-2-(4-fluorobenzoyl)benzoic acid with hydrazine hydrate.

reactant | 5-fluoro-2-(4-fluorobenzoyl)benzoic acid | FC=1C=CC(=C(C(=O)O)C1)C(C1=CC=C(C=C1)F)=O | C14H8F2O3
reactant | hydrazine hydrate | O.NN
product | 7-Fluoro-4-(4-fluorophenyl)-2H-phthalazin-1-one | FC1=CC=C2C(=NNC(C2=C1)=O)C1=CC=C(C=C1)F | C14H8F2N2O
